US04818754
7-[2-Benzoyloxyethylamino]-5-methyl-1H-pyrazolo[4,3-b]pyridine (E7)
The title compound was prepared from 7-(2-hydroxyethyl-amino)-5-methyl-1H-pyrazolo[4,3-b]pyridine (2 g) and benzoyl chloride by the general method of Example 4 without the addition of methanol. The crude reaction mixture was poured into a large excess of water and extracted with ethyl acetate (×3). The combined organic layers were washed with water (×2), dried with anhydrous sodium sulphate, filtered and evaporated to dryness. The resulting intermediate dibenzoylated compound was recrystallized from carbon tetrachloride/60°-80° C. petrol to give a pale yellow solid, m.p. 136°-138° C.

reactant | 7-(2-hydroxyethyl-amino)-5-methyl-1H-pyrazolo[4,3-b]pyridine | 2 g | OCCNC1=C2C(=NC(=C1)C)C=NN2 | C9H12N4O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 7-[2-Benzoyloxyethylamino]-5-methyl-1H-pyrazolo[4,3-b]pyridine | C(C1=CC=CC=C1)(=O)OCCNC1=C2C(=NC(=C1)C)C=NN2 | C16H16N4O2
